US06921763B2
2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyridine was prepared from 2-(4-bromophenyl)imidazo[1,2-a]pyridine (0.273 g, 1.00 mmol) in a manner similar to that used for the preparation of N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine. The compound was formed as a white solid (0.250 g, 78%). RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) Rt=11.35 min, 87%; m/z 321 (MH+).

reactant | 2-(4-bromophenyl)imidazo[1,2-a]pyridine | 1.00 mmol, 0.273 g | BrC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9BrN2
reactant | N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC=1OC2=C(N1)C=CC=C2 | C19H20BFN2O3
product | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyridine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)C | C19H21BN2O2
